US06514968B1
Preparation 43 2-({9-[(5-Chloro-1-benzothiophen-3-yl)methyl]-9H-carbazol-4-yl}oxy)acetonitrile
2-(9H-Carbazol-4-yloxy)acetonitrile (0.146 g, 0.66 mmol)) is added to a slurry of pentane-washed NaH (0.0441 g, 0.0011 mol) in DMF (1 mL) and allowed to stir for 20 min at room temperature. 3-(Bromomethyl)-5-chlorobenzothiophene (0.229 g, 0.88 mmol) is added and after stirring for 1 h the mixture is partitioned between ethyl acetate and water. The combined organic layers are dried over magnesium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (75 mL) using ethyl acetate/hexane (20/80) and solids are precipitated using dichloromethane/hexane to give 0.148 g (56%) of the title compound; MS (ESI+) for C23H15ClN2OS m/z 425.2 (M+Na); IR (drift) 1581, 1460, 1439, 1332, 1279, 1232, 1221, 1155, 1148, 1115, 1079, 833, 780, 752, 717 cm−1; 1H NMR (CDCl3) δ5.10, 5.70, 6.72, 6.80, 7.12, 7.28-7.47, 7.80, 7.87, 8.36. Anal. Calcd for C23H15ClN2OS: C, 68.57; H, 3.75; N, 6.95. Found: C, 68.87; H, 4.22; N, 6.56.

reactant | 2-(9H-Carbazol-4-yloxy)acetonitrile | 0.66 mmol, 0.146 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OCC#N | C14H10N2O
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0011 mol, 0.0441 g | [H-].[Na+]
reactant | 3-(Bromomethyl)-5-chlorobenzothiophene | 0.88 mmol, 0.229 g | BrCC1=CSC2=C1C=C(C=C2)Cl | C9H6BrClS
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-({9-[(5-Chloro-1-benzothiophen-3-yl)methyl]-9H-carbazol-4-yl}oxy)acetonitrile | 0.148 g, 56% | ClC=1C=CC2=C(C(=CS2)CN2C3=CC=CC=C3C=3C(=CC=CC23)OCC#N)C1 | C23H15ClN2OS
